* D:\INGEÑERIA\Circuitos Electronicos II\Resoluciones ejercicios\TP2 - Amplis de audio\Simus\Problema 2 TP2.asc
V1 N002 0 SINE(0 5 2k)
R1 N001 N004 5600
R2 N004 0 820
R3 0 N006 75
Rg N003 N002 10
RL 0 N005 200
Q1 N006 N006 N007 0 BC337-25
Q2 N005 N006 N007 0 BC337-25
Q3 N001 N004 N005 0 BC337-25
C1 N004 N003 10µ
V2 N001 0 5
V3 0 N007 5
.model NPN NPN
.model PNP PNP
.lib C:\Users\nacho\AppData\Local\LTspice\lib\cmp\standard.bjt
.tran .010
.backanno
.end
