* D:\INGEÑERIA\Circuitos Electronicos II\Resoluciones ejercicios\TP2 - Amplis de audio\Simus\Problema 5 TP2.asc
V1 N001 0 12
C1 N007 N006 470µ V=2 Irms=4.74342 Rser=0.01 Lser=0 mfg="KEMET" pn="A700X477M002ATE010" type="Al electrolytic"
R1 N001 N007 8
Q1 N001 N003 N004 0 BC337-40
Q2 0 N008 N011 0 BC327-40
R2 N006 N011 .47
R3 N004 N006 .47
R4 N001 N002 1k
Rp N002 N008 150
Q3 N008 N013 0 0 BC337-40
C2 N008 N013 47p
R5 N013 0 1800
R6 N008 N013 12000
V2 N012 0 SINE(0 .05 1k)
C3 N013 N012 22µ
C4 N001 0 470µ
Q4 N005 N010 0 0 BC337-40
I1 0 N009 1m
V3 N005 0 5
R7 N010 N009 50
R8 N003 N002 0.001
.model NPN NPN
.model PNP PNP
.lib C:\Users\nacho\AppData\Local\LTspice\lib\cmp\standard.bjt
.tran .005
.backanno
.end
