* D:\INGEÑERIA\Circuitos Electronicos II\Resoluciones ejercicios\TP2 - Amplis de audio\Simus\ej4tp2.asc
XU1 N001 N002 N003 tip122
XU2 N010 N006 N005 tip127
Ree1 N003 N004 0.12
Ree2 N004 N005 0.12
Q1 N006 N008 N009 0 BC337-25
RE N009 N010 6
RL N004 0 4
RB N008 N010 920
Vp N002 N006 2.5
RC N001 N002 200
V1 N001 0 16
R1 N001 N008 20k
V2 N007 N010 SINE(0 .480 1k)
V3 N010 0 -16
C1 N008 N007 15µ
.model NPN NPN
.model PNP PNP
.lib C:\Users\nacho\AppData\Local\LTspice\lib\cmp\standard.bjt
.tran .01
.lib Sborka.lib
.backanno
.end
