* D:\INGEÑERIA\Circuitos Electronicos II\resoluciones\Draft4.asc
R1 0 N006 453
R2 N006 N011 4700
V1 0 N011 20
XU1 N009 N006 N005 N010 N007 OP747
V2 N005 NC_01 20
V3 0 N010 20
R3 N007 0 1k
D1 N008 N007 D
R4 N003 N008 1k
R5 N002 N003 5k
V4 N002 0 20
Q1 N004 N008 N012 0 NPN
R6 N012 0 4.7
V5 N004 N001 12
R7 N001 N009 22k
R8 N009 0 4k7
C1 N001 0 1µ
C2 N001 0 47µ
R9 N001 0 1234
.model D D
.lib C:\Users\nacho\AppData\Local\LTspice\lib\cmp\standard.dio
.model NPN NPN
.model PNP PNP
.lib C:\Users\nacho\AppData\Local\LTspice\lib\cmp\standard.bjt
.tran 10
.lib ADI.lib
.backanno
.end
