* Copyright (c) 1998-2024 Analog Devices, Inc.  All rights reserved.
*
.subckt ADA4691 1 2 3 4 5 6
Cinp MID N006 {Ccm}
Cinn N026 MID {Ccm}
R21 2 N026 {Rser} Noiseless
R22 1 N006 {Rser} Noiseless
Cdiff N006 N026 {Cdiff}
A1 N023 N018 MID MID MID MID Avo1 MID OTA G=100u Iout=1m Vhigh=1k Vlow=-1k
Rcmp MID N006 {Rcm} Noiseless
Rcmn MID N026 {Rcm} Noiseless
Rdiff N026 N006 {Rdiff} Noiseless
C10 Avo1 MID 1f
Rx1 AO N017 {Rx_Zo} Noiseless
Rdummy1 AO MID {Rdummy_Zo} Noiseless
G1 MID N009 N022 AO {G1_Zo}
R1 N009 MID 1 Noiseless
R9 N009 N010 {R1a_Zo} Noiseless
R10 N010 MID {R2a_Zo} Noiseless
G5 MID N011 N010 MID {G2_Zo}
C4 N010 N009 {C1a_Zo}
R11 N017 MID 1 Noiseless
B1 MID N017 I=(Uplim(Dnlim({G3_Zo}* +V(ZoF,MID), {IZon}, 1u), {IZop}, 1u))
R12 N011 ZoF {R1b_Zo} Noiseless
R13 ZoF MID {R2b_Zo} Noiseless
C5 ZoF N011 {C1b_Zo}
R14 N011 MID 1 Noiseless
B2 MID Clamp I=Uplim(Dnlim({Avo2/1Meg}* V(Avo1,MID),{Isink},1u),{Isrc},1u)
C1 Clamp MID {Cfp1}
G2 MID N019 Clamp MID 1µ
R3 N019 MID 1Meg Noiseless
C2 N019 MID {Cfp2}
G3 MID N020 N019 MID 1µ
R4 N020 MID 1Meg Noiseless
C3 N020 MID {Cfp2}
G4 MID N021 N020 MID 1µ
R5 N021 MID 1Meg Noiseless
C6 N021 MID {Cfp2}
G6 MID N022 N021 MID 1µ
R6 N022 MID 1Meg Noiseless
C7 N022 MID {Cfp3}
R7 N013 N012 1Meg Noiseless
B3 N012 N013 I=1u*(Vos+Drift*(Temp-27))
B4 N006 MID I=Dnlim(Ib1,Dnlim(Ib2,Ib3,0.1f),0.1f)
G7 MID N012 N006 MID 1k
R8 N012 MID 1m Noiseless
C11 N012 MID 1p
G8 MID N023 N026 MID 1k
R15 N023 MID 1m Noiseless
C12 N023 MID 1p
B5 N026 MID I=I(B4)-1p
C13 N002 N001 {C1a_CMR}
G9 MID N001 N006 MID {G1_CMR}
R16 N001 MID 1 Noiseless
R17 N002 N001 {R1a_CMR} Noiseless
R18 N002 MID {R2a_CMR} Noiseless
R19 N003 MID 1 Noiseless
G10 MID N003 N002 MID 1
C14 N004 N003 {C1b_CMR}
R20 N004 N003 {R1b_CMR} Noiseless
R23 N004 MID {R2b_CMR} Noiseless
R24 N005 MID 1 Noiseless
G11 MID N005 N004 MID {G2_CMR}
R25 N015 N014 1Meg Noiseless
G12 N014 N015 N005 MID 1µ
G13 0 Vcc_Int N045 0 1
G14 0 Vee_Int N047 0 1
R27 Vcc_Int 0 1
R28 Vee_Int 0 1
C15 Vcc_Int 0 1n
C16 Vee_Int 0 1n
R29 N044 Vcc_Int 1Meg
R30 N044 Vee_Int 1Meg
C17 N044 0 1
R31 MID 0 1Meg
R32 N045 3 1m
R33 N047 4 1m
E1 MID 0 N044 0 1
B6 N045 N047 I=(V(ENgd)*Uplim(Isy1,Uplim(Isy2,Isy3,1u),1u))+(10n)
C8 N031 N030 {C1a_PSRp}
G15 MID N030 3 MID {G1_PSRp}
R34 N030 MID 1 Noiseless
R35 N031 N030 {R1a_PSRp} Noiseless
R36 N031 MID {R2a_PSRp} Noiseless
R37 N032 MID 1 Noiseless
G16 MID N032 N031 MID 1
C9 N033 N032 {C1b_PSRp}
R38 N033 N032 {R1b_PSRp} Noiseless
R39 N033 MID {R2b_PSRp} Noiseless
R40 N034 MID 1 Noiseless
G17 MID N034 N033 MID {G2_PSRp}
C18 N035 N034 {C1c_PSRp}
R41 N035 N034 {R1c_PSRp} Noiseless
R42 N035 MID {R2c_PSRp} Noiseless
R43 PSRp MID 1 Noiseless
G18 MID PSRp N035 MID {G3_PSRp}
R44 N016 N015 1Meg Noiseless
G19 N015 N016 PSRp PSRn 1µ
C19 N037 N036 {C1a_PSRp}
G20 MID N036 4 MID {G1_PSRp}
R45 N036 MID 1 Noiseless
R46 N037 N036 {R1a_PSRp} Noiseless
R47 N037 MID {R2a_PSRp} Noiseless
R48 N038 MID 1 Noiseless
G21 MID N038 N037 MID 1
C20 N039 N038 {C1b_PSRp}
R49 N039 N038 {R1b_PSRp} Noiseless
R50 N039 MID {R2b_PSRp} Noiseless
R51 N040 MID 1 Noiseless
G22 MID N040 N039 MID {G2_PSRp}
C21 N041 N040 {C1c_PSRp}
R52 N041 N040 {R1c_PSRp} Noiseless
R53 N041 MID {R2c_PSRp} Noiseless
R54 N042 MID 1 Noiseless
G23 MID N042 N041 MID {G3_PSRp}
C22 N043 N042 {C1c_PSRp}
R55 N043 N042 {R1c_PSRp} Noiseless
R56 N043 MID {R2c_PSRp} Noiseless
R57 PSRn MID 1 Noiseless
G24 MID PSRn N043 MID {G3_PSRp}
A2 MID MID MID MID MID MID e_n MID OTA G=10u Iout=1m Vhigh=1k Vlow=-1k En=Table(freq, 0.1,510n,0.2,400n,0.3,310n,0.4,280n,0.5,260n,0.7,228n,1,190n,1.5,150n,2,130n,3,117n,5,100n,20,58.1n,40,42.7n,150,30.2n,200,26.2n,326,21.7n,433,20n,555,18.4n,1k,14.8n,1.5k,14.4n, 2k,14.3n,3k,14n,4k,13.5n,10k,12n)
R58 e_n MID 100k Noiseless
R59 N014 N013 1Meg Noiseless
G25 N013 N014 e_n MID 1µ
R60 AO 5 1m
B7 MID vimon I=1m*I(R60)
R61 vimon MID 1k Noiseless
C23 vimon MID 1f
D1 N024 AO DO
D2 AO N025 DO
C24 N024 MID 1p
C25 N025 MID 1p
R62 N024 MID 1m Noiseless
R63 N025 MID 1m Noiseless
G26 MID N024 Satp MID 1k
G27 MID N025 Satn MID 1k
B8 Satp1 Vcc_Int I=1m*((V(Vimon,MID)*{Mp1})+{OSp1})
R64 Satp1 Vcc_Int 1k temp=27
C26 Satp1 Vcc_Int 1n
B9 Satp2 Vcc_int I=1m*({Ap1}+(Bp1}*V(Vimon,MID)+ {Cp1}*pwr(V(Vimon,MID),2) +{Dp1}*pwr(V(Vimon,MID),3))
R65 Satp2 Vcc_int 1k temp=27
C27 Satp2 Vcc_int 1n
R66 Satp MID 1k temp=27
C28 Satp MID 1n
B10 MID Satp I=1m*Uplim(V(Satp1,MID),V(Satp2,MID),0.1u)
B11 Vee_Int Satn1 I=1m*((-V(Vimon,MID)*{Mn1})+{OSn1})
R67 Satn1 Vee_Int 1k temp=27
C29 Satn1 Vee_Int 1n
B12 Vee_Int Satn2 I=1m*((-V(Vimon,MID))/({An1}+ {Bn1}*(pwr(-V(Vimon,MID),{Cn1}))))
R68 Satn2 Vee_Int 1k temp=27
C30 Satn2 Vee_Int 1n
R69 Satn MID 1k temp=27
C31 Satn MID 1n
B13 MID Satn I=1m*Dnlim(V(Satn1,MID),V(Satn2,MID),1u)
G28 MID N046 Vcc_Int Vee_Int 1m
R71 N046 MID 1k Noiseless
A3 N046 MID MID MID MID MID VminMID MID SCHMITT Vt={Vsmin-5m} Vh=5m Trise=5n Tripdt=2n
A4 N046 MID MID MID MID VmaxMID MID MID SCHMITT Vt={Vsmax+5m} Vh=5m Trise=5n Tripdt=2n
A5 MID VminMID ENgd VmaxMID MID MID EN MID AND Trise=5n
R72 MID VminMID 1G Noiseless
R73 VmaxMID MID 1G Noiseless
R74 EN MID 1G
S1 MID Avo1 EN MID ENA
S2 MID Clamp EN MID ENA
A6 6 MID MID MID MID MID ENgd MID SCHMITT Vt=1.05 Vh=0.55 Trise=10n Tripdt=5n
R2 ENgd MID 1G Noiseless
C32 6 MID 1p Rser=1G
I1 6 MID 1µ
G29 MID N027 ORp MID 1k
G30 MID N029 ORn MID 1k
DGP1 N027 N028 DG
R26 N027 MID 1m
R70 N029 MID 1m
I2 AO ORn {1m*ORn}
R75 ORn AO 1k
I3 AO ORp {1m*ORp}
R76 ORp AO 1k
C33 ORp AO 1p
C34 ORn AO 1p
DGN1 N028 N029 DG
R79 Clamp N028 1µ
D3 N007 N018 DO
D4 N018 N008 DO
C35 Vcc_Int N007 1n
C36 Vee_Int N008 1n
R80 Vcc_Int N007 1µ Noiseless
R81 Vee_Int N008 1µ Noiseless
G33 MID N018 N016 MID 1µ
R82 N018 MID 1Meg Noiseless
I4 Vcc_Int N007 {1Meg*Vcmmax}
I5 Vee_Int N008 {1Meg*Vcmmin}
S3 MID AO EN MID ENA2
C37 5 MID 10f
.param Rser=1m
.param Ccm=7p Rcm=200Meg
.param Cdiff=2.5p Rdiff=1T
.param beta_Zo=1.12
.param Rx_Zo = {100 * Zo_max}
.param Rdummy_Zo = {10 * Zo_max}
.param G1_Zo={Rx_Zo/(Zo_dc*beta_Zo)}
.param Zo_dc=19.767k
.param Zo_max={Zo_dc}
.param R1a_Zo=10k
.param fz1_Zo=13
.param fp1_Zo=820
.param C1a_Zo = {1 / (2 * pi * R1a_Zo * fz1_Zo)}
.param R2a_Zo = {R1a_Zo/ ((2 * pi * fp1_Zo * C1a_Zo
+* R1a_Zo) - 1)}
.param actual1_Zo = {R2a_Zo / (R1a_Zo + R2a_Zo)}
.param G2_Zo = {1/actual1_Zo}
.param R1b_Zo=10k
.param fz2_Zo=10Meg
.param fp2_Zo=1E14
.param C1b_Zo = {1 / (2 * pi * R1b_Zo * fz2_Zo)}
.param R2b_Zo = {R1b_Zo/ ((2 * pi * fp2_Zo * C1b_Zo
+* R1b_Zo) - 1)}
.param actual2_Zo = {R2b_Zo / (R1b_Zo + R2b_Zo)}
.param G3_Zo = {1/actual2_Zo}
.param Avo=128.5
.param SRp=2 SRn=-2.5
.param fp1=1.7 fp2=30Meg fp3=67Meg
.param Avo2_dB = {Avo-40+1}
.param Avo2 = {pwr(10, (Avo2_dB)/20)}
.param Cfp1={1 / (2 * pi * fp1 * 1Meg)}
.param Cfp2={1 / (2 * pi * fp2 * 1Meg)}
.param Cfp3={1 / (2 * pi * fp3 * 1Meg)}
.param Isrc = {Cfp1 * SRp * 1Meg} Isink = {Cfp1 * SRn * 1Meg}
.PARAM Vos=0.3m Drift=1u
.param Aib=-2.9091E-17 Bib=1.5062f Cib=-21.080m Dib=0.117m
.param Ib1=(Aib+Bib*temp)/(1+(Cib*temp)+(Dib*pwr(temp,2)))
.param Aib2=0.2215f Bib2=0.1088
.param Ib2=(Aib2*(exp(Bib2*temp)))
.param Aib3=-0.2653n Bib3=10.2616p Cib3=-0.1328p Dib3=0.5792f
.param Ib3=Aib3+(Bib3*temp)+(Cib3*pwr(temp,2))+(Dib3*pwr(temp,3))
.param gain_CMR = {pow(10, (-Rej_dc_CMR/20))}
.param C1a_CMR = {1 / (2 * pi * R1a_CMR * fz1_CMR)}
.param R2a_CMR = {R1a_CMR/ ((2 * pi * fp1_CMR * C1a_CMR
+* R1a_CMR) - 1)}
.param actual1_CMR = {R2a_CMR / (R1a_CMR + R2a_CMR)}
.param G1_CMR = {gain_CMR/actual1_CMR}
.param Rej_dc_CMR=107
.param R1a_CMR=100Meg
.param fz1_CMR=1.2k
.param fp1_CMR=440k
.param C1b_CMR = {1 / (2 * pi * R1b_CMR * fz2_CMR)}
.param R2b_CMR = {R1b_CMR/ ((2 * pi * fp2_CMR * C1b_CMR
+* R1b_CMR) - 1)}
.param actual2_CMR = {R2b_CMR / (R1b_CMR + R2b_CMR)}
.param G2_CMR = {1/actual2_CMR}
.param R1b_CMR=100Meg
.param fz2_CMR=1.6Meg
.param fp2_CMR=8Meg
.param Isy1=((MIsy1*temp)+(OSIsy1))
.param Isy2=((MIsy2*temp)+(OSIsy2))
.param Isy3=((MIsy3*temp)+(OSIsy3))
.param MIsy1=0.505u OSIsy1=163.0462u
.param MIsy2= 0.3964u OSIsy2=165u
.param MIsy3=0.3433u OSIsy3=167.0016u
.param gain_PSRp = {pow(10, (-Rej_dc_PSRp/20))}
.param C1a_PSRp = {1 / (2 * pi * R1a_PSRp * fz1_PSRp)}
.param R2a_PSRp = {R1a_PSRp/ ((2 * pi * fp1_PSRp * C1a_PSRp  * R1a_PSRp) - 1)}
.param actual1_PSRp = {R2a_PSRp / (R1a_PSRp + R2a_PSRp)}
.param G1_PSRp = {gain_PSRp/actual1_PSRp}
.param Rej_dc_PSRp=93.8
.param R1a_PSRp=100Meg
.param fz1_PSRp=180
.param fp1_PSRp=4Meg
.param C1b_PSRp = {1 / (2 * pi * R1b_PSRp * fz2_PSRp)}
.param R2b_PSRp = {R1b_PSRp/ ((2 * pi * fp2_PSRp * C1b_PSRp  * R1b_PSRp) - 1)}
.param actual2_PSRp = {R2b_PSRp / (R1b_PSRp + R2b_PSRp)}
.param G2_PSRp = {1/actual2_PSRp}
.param R1b_PSRp=100Meg
.param fz2_PSRp=1.2Meg
.param fp2_PSRp=3Meg
.param C1c_PSRp = {1 / (2 * pi * R1c_PSRp * fz3_PSRp)}
.param R2c_PSRp = {R1c_PSRp/ ((2 * pi * fp3_PSRp * C1c_PSRp  * R1c_PSRp) - 1)}
.param actual3_PSRp = {R2c_PSRp / (R1c_PSRp + R2c_PSRp)}
.param G3_PSRp = {1/actual3_PSRp}
.param R1c_PSRp=100Meg
.param fz3_PSRp=10G
.param fp3_PSRp=19Meg
.param gain_PSRp = {pow(10, (-Rej_dc_PSRp/20))}
.param C1a_PSRp = {1 / (2 * pi * R1a_PSRp * fz1_PSRp)}
.param R2a_PSRp = {R1a_PSRp/ ((2 * pi * fp1_PSRp * C1a_PSRp  * R1a_PSRp) - 1)}
.param actual1_PSRp = {R2a_PSRp / (R1a_PSRp + R2a_PSRp)}
.param G1_PSRp = {gain_PSRp/actual1_PSRp}
.param Rej_dc_PSRp=89.5
.param R1a_PSRp=100Meg
.param fz1_PSRp=303
.param fp1_PSRp=900k
.param C1b_PSRp = {1 / (2 * pi * R1b_PSRp * fz2_PSRp)}
.param R2b_PSRp = {R1b_PSRp/ ((2 * pi * fp2_PSRp * C1b_PSRp  * R1b_PSRp) - 1)}
.param actual2_PSRp = {R2b_PSRp / (R1b_PSRp + R2b_PSRp)}
.param G2_PSRp = {1/actual2_PSRp}
.param R1b_PSRp=100Meg
.param fz2_PSRp=600k
.param fp2_PSRp=20Meg
.param C1c_PSRp = {1 / (2 * pi * R1c_PSRp * fz3_PSRp)}
.param R2c_PSRp = {R1c_PSRp/ ((2 * pi * fp3_PSRp * C1c_PSRp  * R1c_PSRp) - 1)}
.param actual3_PSRp = {R2c_PSRp / (R1c_PSRp + R2c_PSRp)}
.param G3_PSRp = {1/actual3_PSRp}
.param R1c_PSRp=100Meg
.param fz3_PSRp=10G
.param fp3_PSRp=12Meg
.model DO D(Vfwd=10k Vrev=0 Revepsilon=0.1u Ron=1m Noiseless)
.PARAM Mp1=27.3453 OSp1=120u
.PARAM Ap1=-0.4357m Bp1=28.518 Cp1=-128.6587 Dp1=8.4102k
.PARAM Mn1=21.4026 OSn1=130u
.PARAM An1=44.4544m Bn1=-6.51699 Cn1=2.1870
.param IZop={Rx_Zo*Iscp} IZon={Rx_Zo*Iscn}
.param Iscp=55m Iscn=-55m
.param Vsmin=2.7 Vsmax=12
.model ENA SW(Ron=1Meg Roff=1u Vt=500m Vh=-100m Noiseless)
.model DG D(Vfwd=20k Vrev=0 Revepsilon=1u Ron=1m Noiseless)
.param ORp=1.25k ORn=-1.25k
.param Vcmmax=-1.6 Vcmmin=0.3
.model ENA2 SW(Ron=1T Roff=1u Vt=500m Vh=-100m Noiseless)
.ends ADA4691
